US08937092B2
To a stirred solution of N-(2-methyl-4-nitrobenzyl)methanesulfonamide (100 mg, 0.409 mmol) in tetrahydrofuran and ethanol as co-solvent were added 10% Pd/C (40 mg). The mixture was charged with H2 (gas) balloon. The resulting mixture was stirred for 24 h, then filtered using celite. The filtrate removed in vacuo. The crude was purified by column chromatography. N-(4-Amino-2-methylbenzyl)methanesulfonamide (61 mg) was obtained as 70% yield.

reactant | N-(2-methyl-4-nitrobenzyl)methanesulfonamide | 0.409 mmol, 100 mg | CC1=C(CNS(=O)(=O)C)C=CC(=C1)[N+](=O)[O-] | C9H12N2O4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | N-(4-Amino-2-methylbenzyl)methanesulfonamide | 61 mg, 70% yield | NC1=CC(=C(CNS(=O)(=O)C)C=C1)C | C9H14N2O2S
